** sch_path: /foss/designs/my_design/projects/pll/divider/xschem_ngspice/tb_TSPC_FF_comp_sw_divide3_5.sch
**.subckt tb_TSPC_FF_comp_sw_divide3_5
VDD VDD GND 1.8
XM12 CK1 GND CK VDD sky130_fd_pr__pfet_01v8 L=0.15 W=8 nf=8 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM13 CK1 VDD CK GND sky130_fd_pr__nfet_01v8 L=0.15 W=4 nf=4 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM9 CK1_b CK VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM10 CK1_b CK GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM15 Q2_b B3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM16 net1 CK1 net4 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas3 Q2_b net3 0
.save i(vmeas3)
XM17 net3 B4 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM18 B3 A3 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM19 B4 A4 GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas4 B3 net1 0
.save i(vmeas4)
XM20 A3 Q2 VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM21 A4 Q2 net2 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas5 A3 net5 0
.save i(vmeas5)
XM22 net6 CK1 net5 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM23 net4 CK1_b net1 VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM24 net5 CK1_b net6 GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29'
+ pd='2*int((nf+1)/2) * (W/nf + 0.29)' ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
Vmeas8 net4 B4 0
.save i(vmeas8)
Vmeas9 net6 A4 0
.save i(vmeas9)
V2 CK GND pulse(0 1.8 0ps 8.34ps 8.34ps 200.16ps 417ps)
XM11 A3 Q1_b VDD VDD sky130_fd_pr__pfet_01v8 L=0.15 W=2 nf=2 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
XM14 net2 Q1_b GND GND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad='int((nf+1)/2) * W/nf * 0.29' as='int((nf+2)/2) * W/nf * 0.29' pd='2*int((nf+1)/2) * (W/nf + 0.29)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.29)' nrd='0.29 / W' nrs='0.29 / W' sa=0 sb=0 sd=0 mult=1 m=1
V1 Q1_b GND pulse(0 1.8 0ps 20ps 20ps 480ps 1000ps)
V3 Q2 GND pulse(0 1.8 0ps 40ps 40ps 960ps 2000ps)
**** begin user architecture code



.include /foss/pdks/sky130A/libs.ref/sky130_fd_sc_hd/spice/sky130_fd_sc_hd.spice

.option method=gear
.option wnflag=1
.option savecurrents

.save
+@m.xm1.msky130_fd_pr__pfet_01v8[gm]
+@m.xm2.msky130_fd_pr__nfet_01v8[gm]
+@m.xm3.msky130_fd_pr__pfet_01v8[gm]
+@m.xm4.msky130_fd_pr__nfet_01v8[gm]
+@m.xm4_c.msky130_fd_pr__pfet_01v8[gm]
+@m.xm5.msky130_fd_pr__nfet_01v8[gm]
+@m.xm6.msky130_fd_pr__pfet_01v8[gm]
+@m.xm7.msky130_fd_pr__pfet_01v8[gm]
+@m.xm7_c.msky130_fd_pr__nfet_01v8[gm]
+@m.xm8.msky130_fd_pr__nfet_01v8[gm]

*.ic v(d)=0
*.ic v(q)=0
*.ic v(q1)=0

.control

  save v(d) v(d2) v(q1) v(q2) v(q1_b) v(q2_b) v(q3) v(a1) v(a2) v(a3) v(a4) v(b1) v(b2) v(b3) v(b4) v(ck) v(ck1) v(ck1_b)
  * save all
  * tran 0.1n 1u
  tran 1p 20n

  remzerovec
  write tb_TSPC_FF_comp_sw_divide3_5.raw
  * set appendwrite

.endc




.param mc_mm_switch=0
.param mc_pr_switch=0
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/r+c/res_typical__cap_typical__lin.spice
.include /foss/pdks/sky130A/libs.tech/ngspice/corners/tt/specialized_cells.spice

**** end user architecture code
**.ends
.GLOBAL GND
.GLOBAL VDD
.end
